US06177423B1
2-Benzyloxy-5-bromo-6-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione
To a solution of 2-benzyloxy-5-bromo-6-nitro-benzo[de]isoquinoline-1,3-dione (0.25 g, 0.59 mmol, from Example S1-A) in DMF (5 mL) was added pyrrolidine (0.05 g, 0.70 mmol) and triethyl amine (0.18 g, 1.8 mmol). The reaction was reacted at 85° C. for 24 hours, cooled, and concentrated under vacuum. The residue was triturated with methanol to give 0.24 g of the title compound.

reactant | 2-benzyloxy-5-bromo-6-nitro-benzo[de]isoquinoline-1,3-dione | 0.59 mmol, 0.25 g | C(C1=CC=CC=C1)ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3[N+](=O)[O-])Br)=O | C19H11BrN2O5
reactant | pyrrolidine | 0.70 mmol, 0.05 g | N1CCCC1 | C4H9N
reactant | triethyl amine | 1.8 mmol, 0.18 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-Benzyloxy-5-bromo-6-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione | 0.24 g | C(C1=CC=CC=C1)ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3N3CCCC3)Br)=O | C23H19BrN2O3
